data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:9]1[N+:20](=[CH:5][CH:47]=[CH:10][c:31]2[cH:6][cH:21][cH:4][cH:22][cH:7]2)[CH:15]([CH2:48][c:35]2[cH:50][cH:13][cH:25][cH:14][cH:51]2)[C:29](=[O:8])[N:36]1[CH3:28])([CH3:32])([CH3:33])[CH3:34].[N:2]1([c:11]2[c:43]([CH3:16])[cH:39][c:26]([CH3:23])[cH:42][c:46]2[CH3:19])[CH:38]=[CH:37][N:3]([c:12]2[c:44]([CH3:17])[cH:40][c:27]([CH3:24])[cH:41][c:45]2[CH3:18])[C:49]1=[CH2:30]>>[C:1]([CH:9]1[N:20]([CH:5]=[CH:47][CH:10]([CH2:30][c:49]2[n+:2](-[c:11]3[c:43]([CH3:16])[cH:39][c:26]([CH3:23])[cH:42][c:46]3[CH3:19])[cH:38][cH:37][n:3]2-[c:12]2[c:44]([CH3:17])[cH:40][c:27]([CH3:24])[cH:41][c:45]2[CH3:18])[c:31]2[cH:6][cH:21][cH:4][cH:22][cH:7]2)[CH:15]([CH2:48][c:35]2[cH:50][cH:13][cH:25][cH:14][cH:51]2)[C:29](=[O:8])[N:36]1[CH3:28])([CH3:32])([CH3:33])[CH3:34]", "epd": [["LP-/Pi+", [2], [49, 2]], ["Pi-/Sigma+", [30, 49], [30, 10]], ["Pi-/Pi+", [10, 47], [47, 5]], ["Pi-/LP+", [5, 20], [20]]]}
{"reaction_name": "Pyridine protonation", "rsmi": "[Cl:5][H:8].[n:1]1[cH:3][cH:6][cH:2][cH:7][cH:4]1>>[Cl-:5].[n+:1]1([H:8])[cH:3][cH:6][cH:2][cH:7][cH:4]1", "epd": [["LP-/Sigma+", [1], [1, 8]], ["Sigma-/LP+", [5, 8], [5]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:3][O:6][c:7]1[cH:26][cH:13][c:11]([CH:19]=[C:18]2[CH:20]=[C:8]([Br:16])[C:10](=[O:15])[C:9]([Br:17])=[CH:21]2)[cH:14][cH:27]1.[cH:1]1[c:23]2[cH:22][cH:5][cH:2][cH:12][c:25]2[cH-:4][cH:24]1>>[CH:1]1=[CH:24][CH:4]([CH:19]([c:11]2[cH:13][cH:26][c:7]([O:6][CH3:3])[cH:27][cH:14]2)[c:18]2[cH:20][c:8]([Br:16])[c:10]([O-:15])[c:9]([Br:17])[cH:21]2)[c:25]2[cH:12][cH:2][cH:5][cH:22][c:23]21", "epd": [["LP-/Sigma+", [4], [4, 19]], ["Pi-/Pi+", [19, 18], [18, 20]], ["Pi-/Pi+", [20, 8], [8, 10]], ["Pi-/LP+", [10, 15], [15]]]}
{"reaction_name": "Aldehyde-to-alkene conversion", "rsmi": "[CH2:1]=[P:9]([CH3:6])([CH3:7])[CH3:8].[CH3:2][C:3]([H:4])=[O:5]>>[CH2:1]=[C:3]([CH3:2])[H:4].[O:5]=[P:9]([CH3:6])([CH3:7])[CH3:8]", "epd": [["Pi-/Sigma+", [1, 9], [5, 9]], ["Pi-/Sigma+", [3, 5], [1, 3]], ["Sigma-/Pi+", [1, 9], [1, 3]], ["Sigma-/Pi+", [3, 5], [5, 9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[O-:1][C:15](=[CH:3][c:6]1[cH:11][cH:4][cH:19][cH:5][cH:12]1)[O:18][CH2:20][CH3:9].[cH:2]1[cH:7][cH:16][c:14]([N+:10](=[CH2:13])[CH3:21])[cH:17][cH:8]1>>[O:1]=[C:15]([CH:3]([c:6]1[cH:11][cH:4][cH:19][cH:5][cH:12]1)[CH2:13][N:10]([c:14]1[cH:16][cH:7][cH:2][cH:8][cH:17]1)[CH3:21])[O:18][CH2:20][CH3:9]", "epd": [["LP-/Pi+", [1], [15, 1]], ["Pi-/Sigma+", [3, 15], [3, 13]], ["Pi-/LP+", [13, 10], [10]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:1]1[cH:11][cH:9][c:15]2[c:7]([cH:26]1)[CH:27]([Zn-:14]([Cl:12])[Cl:13])[CH:16]=[CH:10]2.[n+:2]1([CH3:17])[c:3]2[cH:18][cH:22][cH:20][cH:5][c:24]2[cH:8][c:25]2[c:4]1[cH:19][cH:23][cH:21][cH:6]2>>[Cl:12][Zn:14][Cl:13].[cH:1]1[cH:11][cH:9][c:15]2[c:7]([cH:26]1)[CH:27]([CH:8]1[c:24]3[c:3]([cH:18][cH:22][cH:20][cH:5]3)[N:2]([CH3:17])[c:4]3[cH:19][cH:23][cH:21][cH:6][c:25]31)[CH:16]=[CH:10]2", "epd": [["Sigma-/Sigma+", [27, 14], [27, 8]], ["Pi-/Pi+", [8, 24], [24, 3]], ["Pi-/LP+", [3, 2], [2]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:6]1[cH:13][cH:8][c:19]([C:15](=[C:10]2[N:11]([CH3:28])[C:17]([CH3:25])=[C:32]([CH3:29])[S:18]2)[O:22][CH3:12])[cH:9][cH:14]1.[n+:1]1([CH3:16])[c:2]2[cH:20][cH:26][cH:23][cH:4][c:30]2[cH:7][c:31]2[c:3]1[cH:21][cH:27][cH:24][cH:5]2>>[N:1]1([CH3:16])[c:2]2[cH:20][cH:26][cH:23][cH:4][c:30]2[CH:7]([C:15]([c:10]2[n+:11]([CH3:28])[c:17]([CH3:25])[c:32]([CH3:29])[s:18]2)([c:19]2[cH:8][cH:13][cH:6][cH:14][cH:9]2)[O:22][CH3:12])[c:31]2[c:3]1[cH:21][cH:27][cH:24][cH:5]2", "epd": [["LP-/Pi+", [11], [10, 11]], ["Pi-/Sigma+", [15, 10], [15, 7]], ["Pi-/Pi+", [7, 30], [30, 2]], ["Pi-/LP+", [2, 1], [1]]]}
{"reaction_name": "Asinger reaction", "rsmi": "[C:2]([CH3:9])([CH3:10])=[O:11].[CH3:1][C:3]([H:4])=[O:12].[H:6][N:13]([H:7])[H:8].[S:5]>>[CH3:1][C:3]1=[N:13][C:2]([CH3:9])([CH3:10])[S:5]1.[O:11]([H:7])[H:8].[O:12]([H:4])[H:6]", "epd": [["Sigma-/Sigma+", [2, 11], [2, 13]], ["Pi-/Sigma+", [2, 11], [2, 5]], ["Sigma-/Sigma+", [3, 4], [3, 13]], ["Sigma-/Pi+", [3, 12], [3, 13]], ["LP-/Sigma+", [5], [3, 5]], ["Sigma-/Sigma+", [6, 13], [6, 12]], ["Sigma-/Sigma+", [7, 13], [7, 11]], ["Sigma-/Sigma+", [8, 13], [8, 11]], ["Pi-/Sigma+", [3, 12], [4, 12]]]}
{"reaction_name": "Beckmann rearrangement", "rsmi": "[H+:6].[O:1]([H:5])[N:8]=[C:2]1[CH2:3][CH2:9][CH2:7][CH2:10][CH2:4]1>>[H+:5].[O:1]=[C:2]1[CH2:4][CH2:10][CH2:7][CH2:9][CH2:3][N:8]1[H:6]", "epd": [["Sigma-/Sigma+", [2, 3], [3, 8]], ["Sigma-/LP+", [1, 8], [1]], ["LP-/Sigma+", [1], [1, 2]], ["Pi-/LP+", [2, 8], [8]], ["LP-/Sigma+", [8], [6, 8]], ["LP-/Pi+", [1], [1, 2]], ["Sigma-/LP+", [1, 5], [1]]]}
